Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
selenium sulfide
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old gentleman presents with back pain that started when 
he sneezed at 3am. Sudden severe sharp pain radiating down to 
the toes bilaterally right more than the left. States that he 
___ had photophobia for a week ___ addition to electricity like 
feeling shooting down from his neck to his toes when he flexes 
his neck over the last 2 days. He reports headache mainly 
frontal and sinus area that is worse during late evening over 
the last 1 week along with vomiting ever morning. No urine or 
stool control issues. 

No recent travel. Last was ___ year ago to ___. No sick 
contacts. + chills, sweating and may be fevers but no 
documentation that ___ been going on over the last ___ weeks 
along with runny nose, frontal and maxillary sinus pain. No ear 
pain. These symptoms are improving per patient as well as 
photophobia. Denies sore throat. Reports greyish sputum and 
hearing wheezes along with his "cold" symptoms over the last ___ 
weeks. 

Also ___ had rash on abdomen and chest x 1 week. States that it 
is intensely itchy when it turns red, then becomes scaly white, 
then dries. 

He also reports generalized joint aches for months. Weight loss 
though does not know how much but he thinks may be 20 lb ___ year 
ago was 181lb measured ___ ___

___ the ED initial vitals were: T 97 HR 87 BP 129/73 RR 20 
Sat100%RA. 
Neuro exam unremarkable, good rectal tone. No red flags. Neck 
flexion did not cause discomfort. received IV 30 mg toradol, IV 
5 mg morphine, IV 5 mg valium. Pain was partially relieved but 
still couldn't ambulate. Received 1mg IV dilaudid. Neuro exam 
was intact. Decision was taken to admit him for pain contorl and 
further management. On transfer the vitals were:  T 97.5 po, BP 
99/58, HR 58, RR16, Sat95% RA.

On the floor, he is laying flat ___ bed, comlplaing of low back 
pain shooting down both lower extremities when he moves around. 

Review of sytems: As ___ HPI. 
No dysuria frequency or urgency. Reports hard stools but gets BM 
daily sometimes every other day. 
 
Past Medical History:
- Recurrent sinus infection since childhood
- ___ year ago was admitted ___ ___ to hospital for 20 days. 
Reason for admission was fever, sweating, red rash that were 
described as dots and circles that appeared all at the same time 
overnight, at the end of his hospial stay, they all disappeared 
and was told ___ selenium allergy

 
Social History:
___
Family History:
Mother is diabetic. No cardiac disease, lung disease, 
neurological disease or malignancy ___ the family per patient. 

 
Physical Exam:
Admission physical exam:
Vitals- T 98, BP 109/71 HR 65, RR 13, Sat 100%RA
General- Alert, orientedx3, no acute distress but ___ pain when 
moves around, turns on his left side ___ pain
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, not tender to palpation, uncomfortable when 
attempting to flex his neck, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, faint systolic 
murmur best heard at LLSB, no rubs, gallops  
Abdomen- soft, ___, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. Thin cord 
like structure felt through deep palpation at the left lower 
quadrant close to the inguinal ligament mildy tender upon deep 
palpation (pt reports feeling this over the last 6 months and 
stable). Not present on the right side. 
SPINE: tender right lumbar paraspinal region with mild midspine 
tenderness ___ the lumbar region. Left paraspinal tenderness is 
mild
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- ___ intact, motor function grossly normal but ___ 
power exam limited by low back pain shooting down his lower 
extremities upon movements. Straight leg raising test was 
positive by elevating the leg only slightly, right worse than 
left. Pain was triggered when attempting dorsiflexion and 
plantal flexion on the right side.   
Skin: chest, abdomen, back and shoulders have light brownish 
itchy multiple macules, with minimal scaling
.
Discharge physical exam:
Vitals- T 98, BP 108/64  HR 55 (___), RR 13, Sat 99% RA
General- NAD resting comfortably
HEENT- Sclera anicteric, MMM, oropharynx clear  
Lungs- Clear to auscultation bilaterally
CV- Regular rate and rhythm, normal S1 + S2, faint systolic 
murmur best heard at ___, no rubs, gallops  
Abdomen- soft, ___, 
SPINE: tender right lumbar paraspinal region with mild midspine 
tenderness ___ the lumbar region. Left paraspinal tenderness is 
mild
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro- ___ intact, ___ strength through out, pain with right 
leg raise off the bed.  
MSK:  pain with palpation of the right hip, and pain localizing 
to the hip with movement of the right leg.
Skin: chest, abdomen, back and shoulders have light brownish 
itchy multiple macules, with minimal scaling, better

 
Pertinent Results:
Admission labs:
===============
___ 07:47AM BLOOD ___ 
___ Plt ___
___ 07:47AM BLOOD ___ 
___
___ 07:47AM BLOOD ___ 
___

Discharge labs:
===============
___ 08:00AM BLOOD ___ 
___ Plt ___
___ 08:00AM BLOOD ___
___ 08:00AM BLOOD ___

Sputum:
=======
___ 4:24 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

Cytology: NEGATIVE FOR MALIGNANT CELLS.
  Numerous pigmented macrophages.

Imaging:
========
Full spine XRAY AP and Lateral
FINDINGS: 
  
CERVICAL SPINE: Unremarkable soft tissues. The lung apices are 
clear. Patent airway. Normal prevertebral soft tissues. Normal 
alignment. Normal 
vertebral bodies and disc spaces. 
  
THORACIC SPINE: Limited lateral view due to motion and overlying 
soft tissue and bony structures. No compression fractures. No 
degenerative changes.  Loss of kyphosis which may be positional. 
Visualized intrathoracic structures are unremarkable. 
  
LUMBAR SPINE: ___ bowel gas pattern which obscures 
the bony 
detail of the sacrum. The visualized SI joints are within normal 
limits.  
Bilateral hip joint space narrowing. Five ___ vertebral 
bodies are present. Normal vertebral body heights and disc 
spaces. Normal alignment. 
  
IMPRESSION: No acute abnormality. 

MRI SPINE:
----------
FINDINGS: Many of the axial sequences are ___, 
despite having
been repeated. The study is compared with the radiography 
obtained ___.
  
The sagittal STIR sequences are unremarkable, with no pathologic 
paraspinal
soft tissue, including ligamentous, bone marrow or spinal cord 
focus of
hyperintensity. Incidentally noted T1- and ___ 
___
lesion centered ___ the L3 vertebral body, is likely a cavernous 
hemangioma.
The spinal cord is normal ___ caliber and intrinsic signal 
intensity through
the conus medullaris, which is normal ___ morphology and 
intrinsic signal
intensity, and terminates at the ___ level. Noted is 
desiccation of the
___ through ___ discs, with only mild bulging and no focal 
herniation or
spinal canal or neural foraminal compromise. The thoracic 
intervertebral
discs are maintained ___ height and signal intensity without 
significant bulge or focal herniation.
 
Noted is degeneration of the lumbar intervertebral discs. This 
is most marked at the ___ level, where there is a large right 
paracentral/proximal foraminal disc extrusion, measuring up to 8 
(AP) x 11 mm (TRV). This occupies the entire right subarticular 
zone and markedly indents the right anterolateral aspect of the 
thecal sac, signficantly displacing and impinging upon 
___ traversing right L5 nerve root. There may be 
impingement upon more caudal traversing nerve roots as well, but 
no overall spinal canal stenosis. There is no significant right 
neural foraminal stenosis or impingement upon the exiting right 
L4 nerve root. There is degeneration of the ___ disc with a 
right paracentral and eccentric bulge to the right;however, 
there is no significant spinal canal or neural foraminal 
stenosis at this level. There is also desiccation of the ___ 
and ___ discs with only mild bulging, of no apparent 
significance.
 
Following contrast administration, there is no pathologic 
paraspinal or
epidural soft tissue, leptomeningeal, intramedullary or 
radicular focus of
enhancement.
 
Incidentally noted is lobulated mucosal thickening with 
___ cyst formation involving the left maxillary 
sinus, incompletely imaged.
 
IMPRESSION:
1. ___: Disc degeneration with large right paracentral disc 
extrusion,
occupying that subarticular zone and impinging upon the 
traversing right L5
and, possibly, more caudal nerve roots at that site.
2. Otherwise, disc degeneration at several lumbar and cervical 
levels, with
only mild bulging and no other spinal canal or neural foraminal 
compromise.
3. No signal abnormality or pathologic enhancement to suggest
spondylodiscitis or paraspinal or epidural abscess.
 
 
Brief Hospital Course:
___ year old gentleman with recurrent sinus infection since 
childhood comes with acute onset of low back pain radiating to 
his lower extremities right more than left preceeded by ___ 
weeks of headache that looks like sinus headache, runny nose, 
generalized arthrlagia, vomiting, and skin lesions that were 
most likely tenia versicolor. He had an MRI of the spine which 
showed ___ disc degeneration with large right paracentral disc 
extrusion, occupying that subarticular zone and impinging upon 
the traversing right L5 and, possibly, more caudal nerve roots 
at that site. ___ addition, it also showed degenerative changes 
at the thoracic and cervical spaces. His skin lesions improved 
with daily terbinafine cream. He was discharged with pain killer 
regimen of tylenol, ibuprofen and short course of oxycodone with 
instructions to follow with a local ___ ___ spine exercise 
focusing on his underlying spine pathology. 

# Back pain: history and exam contains both components of 
radiculopathy and muscular pain. No fever or leukocytosis to be 
concerned about an abscess or infectious process. No IV drug 
use. Mild midline tenderness but more tender paraspinally. His 
pain was controlled with tylenol every 8 hour, oxycodone, 2 
shots of toradol and flexeril as an inpatient. He was evaluated 
by physical therapy and found not able to walk because of pain. 
Spine Xray did not show fractures however Spine MRI showed ___ 
disc degeneration with large right paracentral disc extrusion 
impinging upon the right L5. After better pain controll, he was 
___ by ___ during which he was slightly orthostatic. He 
was educated how to get out of bed. He is discharged with 
standing tylenol regimen, ibuprofen, short course of oxycodone. 
He is instructed to call the ___ and schedule a follow up 
appointment with a new primary car physician since he does not 
have one. He was also instructed to call a local ___ facility for 
spine exercise focusing on his underlying spine pathology. 

# Tenia versicolor: He ___ brownish ___ itchy macules on 
his chest, upper abdomen, shoulders and back. Impression was 
most likely tenia versicolor. Topical terbinafine cream was 
applied daily for a total course of 2 weeks. This can be 
followed up once he sees a new primary care physician. 

# Black sputum: Patient reported having blackish sputum over 
several months. He works at ___ and his job includes 
preparing the hooka's for the customers. He does this ___ 
times per day (preparation includes inhaling the first few puffs 
to make it ready for the customor). His sputum cytology was 
negative however showed numerous pigmented macrophages, 
consistent with the hooka preparation technique. The patient was 
instructed that inhaling the hooka is equivalent to smoking. 

Tranistional issues:
- Patient does not have a primary care physician. He is 
instructed to call ___ to schedule a follow up with a new 
primary care physician
- ___ dis degeneration with large disc herniation impinging 
right L5. 
- Discharged on short course of tylenol, Ibuprofen, and 
oxycodone
- Discharged on 2 week course of topical terbinafine for tenia 
versicolor
- Patient will call local ___ ___ spine exercise focusing 
on ___ disc bulging with impinging right L5 root
 
Medications on Admission:
tylenol and ibuprofen PRN for back pain
 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours) for 7 days: Do not exceed this dosing please.
Disp:*60 Tablet(s)* Refills:*0*
2. ibuprofen 800 mg Tablet Sig: One (1) Tablet PO three times a 
day for 12 days.
Disp:*36 Tablet(s)* Refills:*1*
3. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain: please avoid driving or operating 
machinery.
Disp:*10 Tablet(s)* Refills:*0*
4. terbinafine 1 % Cream Sig: One (1) Appl Topical DAILY 
(Daily): for two weeks.
Disp:*1 tube* Refills:*2*
5. Outpatient Physical Therapy
For outpatient physical therapy focused on ___ 
exercises for treatment of L4/5 disc herniation with right sided 
radicular pain.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L4/L5 disc herniation with L5 nerve root compression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a great pleasure taking care of you as your doctor. As 
you know you were admitted to ___ for your back pain shooting 
to your legs on both sides. We did XRAYS of your back bone which 
didn't reveal abnormalities. During your stay we provided you 
pain killers including tylenol and oxycodone and a dose of 
toradol. 

Given you couldn't work with ___ because of continuous pain, we 
ordered MRI of your spine which showed a ruptured disc at L4/L5 
that was compressing your nerve root.  This is a very common 
problem and fortunately does not require surgery.  Conservative 
medical management with physical therapy, standing 
___ medications and pain control is very 
effective.  You should expect to have continued back pain for 
the next several days with gradual improvement.

Your sputum analysis showed pigmented white cells which is most 
likely because of hooka preparation to the customers. Please be 
advised that the hooka inhalation is equivalent to cigarette 
smoking. 

Please START tylenol ___ mg 2 tablet three times daily for pain 
for 7 days

Please START Ibuprofen 800 mg three times a day (take it after 
meals please) for 12 days

If the above medications do not help to control the pain, please 
take oxycodone 5 mg every ___ hour as needed. Please do not 
drive or operate machinery while taking oxycodone. 

Please APPLY terbinafine cream once daily on the affected areas 
of your skin (we think this is a fungal infection called Tenia 
Versicolor). This should be for a total of 2 weeks only. 

Please call the number provided below to establish care with new 
primary care physician. 
 
Followup Instructions:
___